US08067599B2
3-(1-Cyano-ethyl)-benzoic acid ethyl ester
To a solution of 700 mg 3-(1-Cyano-ethyl)-benzoic acid in 20 ml dichloromethane were added dropwise 610 mg oxalyl chloride and 2 drops of DMF at RT. After stirring for 1 hr, 10 ml ethanol were added and stirring was continued for another hr. The solvents were evaporated, the residue dissolved in dichloromethane and washed with aqueous sodium bicarbonate solution. The dichloromethane phase was dried, evaporated and the residue purified by chromatography on silica in ethyl acetate/heptane mixtures.

reactant | 3-(1-Cyano-ethyl)-benzoic acid | 700 mg | C(#N)C(C)C=1C=C(C(=O)O)C=CC1 | C10H9NO2
reactant | oxalyl chloride | 610 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 3-(1-Cyano-ethyl)-benzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1)C(C)C#N)=O | C12H13NO2
